datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])=[C:9]([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])([H:20])[H:21])([H:18])[H:19])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([C:3]([H:15])([H:16])[H:17])[C:4]([H:18])([H:19])[C:5]([H:20])([H:21])[C:6]([C:7](=[C:8]([H:23])[H:24])[H:22])[C:9]1([C:10]([H:25])([H:26])[H:27])[C:11]([H:28])([H:29])[H:30])[H:14])([H:12])[H:13],94.6002
[O:0]=[S:1](=[O:2])[O:3][H:4].[S:5]>>[H:4][S:5].[O:0]=[S:1](=[O:2])=[O:3],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])[H:9])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])[H:8])([H:6])[H:7],176.983
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([S:4][H:12])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[S:4]([H:12])[C:13]([H:14])([H:15])[H:16],30.5432
[C:0](=[C:1]=[C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[C:5](=[C:6]([H:13])[H:14])[H:12])([H:7])[H:8].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5](=[C:6]([H:13])[H:14])[H:12])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])([H:7])[H:8],34.2251
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([S:10][H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:14])[H:5].[C:8]([C:9]([S:10][H:16])[H:15])([H:11])([H:12])[H:13],56.484
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[O:6][O:7])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])=[C:3]([C:4]([H:15])([H:16])[H:17])[C:5]([H:18])([H:19])[H:20])([H:8])([H:9])[H:10].[O:6][O:7][H:11],132.633
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4].[C:9](=[O:10])[H:11]>>[C-:9]#[O+:10].[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])([H:4])[H:11],0.0
[N:1]([N:2]([H:3])[H:4])[H:5].[O:6][H:7]>>[H:5][O:6][H:7].[N-:1]=[N+:2]([H:3])[H:4],0.0
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[c:18]1[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]1[H:28]>>[C:0]([C:1]([C:2]1([c:18]2[c:19]([H:24])[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]2[H:28])[C:3]([H:13])[C:4]([H:14])=[C:5]([H:15])[C:6]([H:16])=[C:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],8.15269
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:15])[H:16])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])([H:6])([H:7])[H:14],55.6472
[C:0]([C:1]([O:2][O:3][H:8])([H:6])[H:7])([H:4])[H:5]>>[C:0]([C:1]([O:2][O:3])([H:6])[H:7])([H:4])([H:5])[H:8],113.05168
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3],146.8584
[C:0]([N:1]=[C:2]([H:5])[H:6])([H:3])[H:4]>>[C:0]([N:1]=[C:2][H:6])([H:3])([H:4])[H:5],276.608424
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([C:4]([H:6])([H:7])[H:8])[C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16])[H:5],47.9905
[C:0]([C:1]([O:2][O:3][H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0]([C:1]([O:2][O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],-35.9824
[C:3]([H:4])([H:5])[H:6].[N:0](=[O:1])[H:2]>>[H:2][C:3]([H:4])([H:5])[H:6].[N:0]=[O:1],3.9748
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]1[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0]1([H:11])=[C:1]([H:12])[C:2]([H:13])=[C:3]([H:14])[C:4]([H:10])([H:15])[C:5]12[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]2([H:19])[H:20],134.7248
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:22])([H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25],3.7656
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13](=[C:14]([H:19])[H:20])[C:15]([O:16][H:23])([H:21])[H:22])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:12]([C:13](=[C:14]([H:19])[H:20])[C:15]([O:16][H:23])([H:21])[H:22])([H:17])[H:18],83.01056
